US06498172B1
5-(3-Amino-propyl)-thiophene-2-carboxylic acid methyl ester.
A solution of 5-(3-tert-butoxycarbonylamino-propyl)-thiophene-2-carboxylic acid methyl ester prepared of Preparation 5, Step B (0.118 g, 0.5 mmol) in 50 mL MeOH was cooled to 0° C. and was saturated with HCl (g). The reaction was stirred at room temperature for 90 minutes. The solution was concentrated to a solid which was partitioned between EtOAc and saturated NaHCO3. The layers were separated, and the combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to afford the title compound as an oil (399 mg). MS 200 (M+1).

reactant | 5-(3-tert-butoxycarbonylamino-propyl)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)CCCNC(=O)OC(C)(C)C | C14H21NO4S
reactant | HCl | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
product | 5-(3-Amino-propyl)-thiophene-2-carboxylic acid methyl ester | 399 mg | COC(=O)C=1SC(=CC1)CCCN | C9H13NO2S
